US07645789B2
To a stirred solution of 6-fluoro-benzo[1,3]dioxole-5-carbaldehyde (700 mg, 4.2 mmol) in MeOH (50 mL) was added NaBH4 (320 mg, 8.4 mmol) in portions at 0° C. The mixture was stirred at this temperature for 30 min and was then concentrated in vacuo to give a residue. The residue was dissolved in EtOAc and the organic layer was washed with water, dried over Na2SO4, and concentrated in vacuo to afford (6-fluoro-benzo[1,3]dioxol-5-yl)-methanol (650 mg, 92%), which was directly used in the next step.

reactant | 6-fluoro-benzo[1,3]dioxole-5-carbaldehyde | 4.2 mmol, 700 mg | FC=1C(=CC2=C(OCO2)C1)C=O | C8H5FO3
reactant | NaBH4 | 8.4 mmol, 320 mg | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (6-fluoro-benzo[1,3]dioxol-5-yl)-methanol | 650 mg, 92% | FC=1C(=CC2=C(OCO2)C1)CO | C8H7FO3
